US09428477B2
Production of 1-((E)-2-Decenoyl-4-(2-dimethylaminoethyl)piperidine [Compound 15]
The same procedures as in Example 2 were carried out using (E)-2-decenoic acid and 4-(2-dimethylaminoethyl)piperidine as starting raw materials, to produce an intended compound.

reactant | (E)-2-decenoic acid | C(\C=C\CCCCCCC)(=O)O | C10H18O2
reactant | 4-(2-dimethylaminoethyl)piperidine | CN(CCC1CCNCC1)C | C9H20N2
product | (E)-2-Decenoyl-4-(2-dimethylaminoethyl)piperidine | C(\C=C\CCCCCCC)(=O)C1NCCC(C1)CCN(C)C | C19H36N2O
